US05612340
16.2 g (104.2 mmol) of 4-acetyl-2-chloro-pyridine are stirred for 1 h at 110° with 116 ml of dimethylformamide diethylacetal. After cooling to 0°, filtering and drying at 60° under HV, 3-dimethylamino-1-(2-chloro-4-pyridyl)-2-propen-1-one is obtained; 1H-NMR (dimethyl sulfoxide): 2.98 (3H,s), 3.2 (3H,s), 5.9 (1H,d), 7.8 (3H.m), 8.5

reactant | 4-acetyl-2-chloro-pyridine | 104.2 mmol, 16.2 g | C(C)(=O)C1=CC(=NC=C1)Cl | C7H6ClNO
reactant | dimethylformamide diethylacetal | 116 ml | C(C)OC(N(C)C)OCC | C7H17NO2
product | 3-dimethylamino-1-(2-chloro-4-pyridyl)-2-propen-1-one | CN(C=CC(=O)C1=CC(=NC=C1)Cl)C | C10H11ClN2O
